US07199147B2
Trifluoroacetic acid (1.5 ml) was added dropwise to a solution of 1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole-4-carbonitrile (227 mg, 0.693 mmol) in dichloromethane (6.5 ml) at room temperature, and the resulting mixture was stirred for 1.5 hours while being maintained at room temperature. The reaction solution was diluted with ethyl acetate and adjusted to pH 7 with a saturated aqueous sodium hydrogencarbonate solution, followed by partition and extraction. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure to obtain a crude product. The crude product was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 5-hydroxy-1H-indazole-4-carbonitrile (108 mg, 98%).

reactant | Trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole-4-carbonitrile | 0.693 mmol, 227 mg | O1C(CCCC1)N1N=CC=2C(=C(C=CC12)OC1OCCCC1)C#N | C18H21N3O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 6.5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-hydroxy-1H-indazole-4-carbonitrile | 108 mg, 98% | OC1=C(C=2C=NNC2C=C1)C#N | C8H5N3O
